US05726165
4-(2-t-Butoxycarbonylaminoethyl)phenoxymethyl phosphonic acid, diethyl ester
A solution of 2-(4-hydroxyphenyl)ethylcarbamic acid, t-butyl ester1 (4.0 g, 16.9 mMol) in dry DMSO (37.5 ml) was cooled in an ice-bath and treated with sodium hydride (80% in mineral oil 0.557 g, 1.1 equiv) with stirring under argon according to the method described by Cornforth2. When effervescence ceased a solution of 4-chlorobenzenesulfonyloxymethylphosphonate diethyl ester (6.07 g, 1.05 equiv) in dry DMSO (110 ml) was added and the resulting pale yellow solution stirred at room temperature overnight. The mixture was then poured into water (550 ml) and extracted with diethyl ether/ethyl acetate (1:1, 3×150 ml) and finally ethyl acetate (3×100 ml). The combined extracts were washed with brine, dried over anhydrous sodium sulfate and evaporated to dryness. The resulting oil was purified by chromatography on silica gel with a gradient of 3:2 pentane:ethyl acetate rising to 100% ethyl acetate to give the title compound as a colourless viscous oil.

reactant | 2-(4-hydroxyphenyl)ethylcarbamic acid | OC1=CC=C(C=C1)CCNC(O)=O | C9H11NO3
reactant | sodium hydride | 0.557 g, 1.1 equiv | [H-].[Na+]
reactant | 4-chlorobenzenesulfonyloxymethylphosphonate diethyl ester | 6.07 g, 1.05 equiv | C(C)OP(OCC)(=O)COS(=O)(=O)C1=CC=C(C=C1)Cl | C11H16ClO6PS
reactant | water | 550 ml | O | H2O
solvent | DMSO | 37.5 ml | CS(=O)C | C2H6OS
solvent | DMSO | 110 ml | CS(=O)C | C2H6OS
product | 4-(2-t-Butoxycarbonylaminoethyl)phenoxymethyl phosphonic acid, diethyl ester | C(C)(C)(C)OC(=O)NCCC1=CC=C(OCP(OCC)(OCC)=O)C=C1 | C18H30NO6P
